US07598391B2
1,1-Dicyclohexyl-3-(5-thiomorpholin-4-ylmethyl-thiazol-2-yl)-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (60 mg. 0.18 mmol), acetic acid (11 μL, 0.18 mmol), thiomorpholine (21 μL, 0.22 mmol) and sodium triacetoxyborohydride (38 mg, 0.20 mmol) to afford 7 mg (9%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.18 mmol, 60 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | acetic acid | 0.18 mmol, 11 μL | C(C)(=O)O | C2H4O2
reactant | thiomorpholine | 0.22 mmol, 21 μL | N1CCSCC1 | C4H9NS
reactant | sodium triacetoxyborohydride | 0.20 mmol, 38 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-(5-thiomorpholin-4-ylmethyl-thiazol-2-yl)-urea | 7 mg, 9% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCSCC1)C1CCCCC1 | C21H34N4OS2
